US08071602B2
Step 2: Bis-(2-chloroethyl)-(2-phenoxyethyl)amine hydrochloride (I)
To an ice-cold solution of 2-[(2-hydroxyethyl)-(2-phenoxyethyl)-amino]ethanol (H, 43.9 g, 194 mmol) in chloroform (140 mL) was added thionyl chloride (SOCl2; 114.8 g, 965 mmol) dropwise. The reaction mixture was then reflux for 1.5 h and concentrated. The residue was then suspended in the mixture of ethyl acetate and isopropyl ether. The precipitate was filtered and dried in a vacuum oven to afford the title compound quantitatively as a light brown crystal. This product was then used without further purification.

reactant | 2-[(2-hydroxyethyl)-(2-phenoxyethyl)-amino]ethanol | 194 mmol, 43.9 g | OCCN(CCO)CCOC1=CC=CC=C1 | C12H19NO3
reactant | thionyl chloride | 965 mmol, 114.8 g | S(=O)(Cl)Cl | Cl2OS
reactant | chloroform | 140 mL | C(Cl)(Cl)Cl | CHCl3
product | Bis-(2-chloroethyl)-(2-phenoxyethyl)amine hydrochloride | Cl.ClCCN(CCOC1=CC=CC=C1)CCCl | InChI=1S/C12H17Cl2NO.ClH/c13-6-8-15(9-7-14)10-11-16-12-4-2-1-3-5-12;/h1-5H,6-11H2;1H
